US04947881
These solvents are readily prepared from commercially available materials by standard and well-known organic syntheses techniques. For example, to prepare 1,1-dichloro-2,2,3,3,3-pentafluoropropane, 2,2,3,3,3-pentafluoro-1-propanol and p-toluenesulfonate chloride are reacted together to form 2,2,3,3,3-pentafluoropropyl-p-toluenesulfonate. Then, N-methylpyrrolidone, lithium chloride, and the 2,2,3,3,3-pentafluoropropyl-p-toluenesulfonate are reacted together to form 1-chloro-2,2,3,3,3-pentafluoropropane. Chlorine and the 1-chloro-2,2,3,3,3-pentafluoropropane are then reacted together to form 1,1-dichloro-2,2,3,3,3-pentafluoropropane.

reactant | lithium chloride | [Cl-].[Li+]
reactant | 2,2,3,3,3-pentafluoropropyl-p-toluenesulfonate | FC(COS(=O)(=O)C1=CC=C(C=C1)C)(C(F)(F)F)F | C10H9F5O3S
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 1-chloro-2,2,3,3,3-pentafluoropropane | ClCC(C(F)(F)F)(F)F | C3H2ClF5
